US07718653B2
2,6-Dimorpholinopyridin-4-amine (160 mg, 0.60 mmol) and 2-chloro-N-(5-chlorobenzo[d][1,3]dioxol-4-yl)-N-methylpyrimidin-4-amine (180 mg, 0.60 mmol) were reacted according to the procedure in Example 1 to give N4-(5-chlorobenzo[d][1,3]dioxol-4-yl)-N2-(2,6-dimorpholinopyridin-4-yl)-N4-methylpyrimidine-2,4-diamine (80 mg, 25.2%) as a pale yellow foam. NMR Spectrum (CDCl3) 3.23-3.58 (m, 11H), 3.72-3.90 (m, 8H), 5.65 (s, 1H), 6.03 (s, 2H), 6.50 (s, 2H), 6.79 (d, 1H), 6.99 (d, 1H), 7.17 (s, 1H), 7.90 (s, 1H); Mass spectrum: MH+ 526.

reactant | 2,6-Dimorpholinopyridin-4-amine | 0.60 mmol, 160 mg | O1CCN(CC1)C1=NC(=CC(=C1)N)N1CCOCC1 | C13H20N4O2
reactant | 2-chloro-N-(5-chlorobenzo[d][1,3]dioxol-4-yl)-N-methylpyrimidin-4-amine | 0.60 mmol, 180 mg | ClC1=NC=CC(=N1)N(C)C1=C(C=CC=2OCOC21)Cl | C12H9Cl2N3O2
product | N4-(5-chlorobenzo[d][1,3]dioxol-4-yl)-N2-(2,6-dimorpholinopyridin-4-yl)-N4-methylpyrimidine-2,4-diamine | 80 mg, 25.2% | ClC1=C(C2=C(OCO2)C=C1)N(C1=NC(=NC=C1)NC1=CC(=NC(=C1)N1CCOCC1)N1CCOCC1)C | C25H28ClN7O4
